US07125896B2
b) 2-(N-Piperidinyl)-5-bromopyrimidine
Prepared from 2-chloro-5-bromopyrimidine and piperidine by the method of Example 44 (b).

reactant | 2-chloro-5-bromopyrimidine | ClC1=NC=C(C=N1)Br | C4H2BrClN2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-(N-Piperidinyl)-5-bromopyrimidine | N1(CCCCC1)C1=NC=C(C=N1)Br | C9H12BrN3
